US08609727B2
Methyl 4-((3E)-2-[2-(4-cyanophenyl)ethyl]-4-{2-[(5-phenylpentyl)oxy]phenyl}but-3-en-1-yl)benzoate
464.2 mg (2.04 mmol) of (5-bromopentyl)benzene and 353.05 mg (2.55 mmol) of potassium carbonate are added to a solution of 700.8 mg (1.7 mmol) of methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate in 65 ml of acetonitrile, and the mixture is stirred under reflux for 12 hours. After cooling, the potassium carbonate is filtered off and the filtrate is evaporated. The resulting residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 7:3). 945 mg (1.7 mmol, 99.5% yield) are obtained.

reactant | (5-bromopentyl)benzene | 2.04 mmol, 464.2 mg | BrCCCCCC1=CC=CC=C1 | C11H15Br
reactant | potassium carbonate | 2.55 mmol, 353.05 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate | 1.7 mmol, 700.8 mg | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)O | C27H25NO3
solvent | acetonitrile | 65 ml | C(C)#N | C2H3N
product | Methyl 4-((3E)-2-[2-(4-cyanophenyl)ethyl]-4-{2-[(5-phenylpentyl)oxy]phenyl}but-3-en-1-yl)benzoate | 99.5% yield | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)OCCCCCC1=CC=CC=C1 | C38H39NO3
